US06423689B1
[S-(R*,R*)]-3-(4-Benzyloxy-phenyl)-2(S)-[2(S)-(4-tert-butyl-benzenesulfonylamino)-4-methyl-pentanoylamino]-propionic acid tert-butyl ester
A solution of the product from Example AI ([S-(R*,R*)]-2-{2-amino-4-methyl-pentanoylamino}-3-(4-benzyloxy-phenyl)-propionic acid tert-butyl ester) (0.20 g, 0.45 mmol) and triethylamine (0.13 mL, 0.90 mmol) in 5 mL of CHCl3 was cooled to 0° C. and treated with 4-tert-butylphenylsulfonyl chloride (0.10 g, 0.45 mmol). The reaction mixture was warmed to room temperature and treated with saturated aqueous NaHCO3. The organic phase was separated from the aqueous phase. The aqueous phase was extracted with additional CHCl3, and the combined organic extracts were dried MgSO4, filtered, and concentrated. The residue was purified by chromatography (silica gel, 1:1 heptane/ethyl acetate). The chromatography product was crystallized from hot heptane/ethyl acetate to give the title compound as a white solid 0.20 g 70%), mp=142-143° C.

reactant | 2-{2-amino-4-methyl-pentanoylamino}-3-(4-benzyloxy-phenyl)-propionic acid tert-butyl ester | C(C)(C)(C)OC(C(CC1=CC=C(C=C1)OCC1=CC=CC=C1)NC(C(CC(C)C)N)=O)=O | C26H36N2O4
reactant | triethylamine | 0.90 mmol, 0.13 mL | C(C)N(CC)CC | C6H15N
reactant | 4-tert-butylphenylsulfonyl chloride | 0.45 mmol, 0.10 g | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)Cl | C10H13ClO2S
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | CHCl3 | 5 mL | C(Cl)(Cl)Cl | CHCl3
product | 3-(4-Benzyloxy-phenyl)-2(S)-[2(S)-(4-tert-butyl-benzenesulfonylamino)-4-methyl-pentanoylamino]-propionic acid tert-butyl ester | 0.20 g, 70% | C(C)(C)(C)OC([C@H](CC1=CC=C(C=C1)OCC1=CC=CC=C1)NC([C@H](CC(C)C)NS(=O)(=O)C1=CC=C(C=C1)C(C)(C)C)=O)=O | C36H48N2O6S
